US08278341B2
Part (a). Indole-3-carbinol (1.0 g, 6.79 mmol) in 10% aqueous NaOH solution (100 mL) was refluxed for 1 h. The solution was cooled, neutralized with carbon dioxide and the white precipitate was collected by filtration, which was then crystallized from toluene to yield 3,3′-Diindolylmethane as a white solid (0.65 g, 77%): 1H NMR (300 MHz, CDCl3) δ 4.26 (s, 2, CH2), 6.94 (m, 2, PyH), 7.11 (m, 2, ArH), 7.21 (m, 2, ArH), 7.36 (m, 2, ArH), 7.64 (m, 2, ArH), 7.86 (br. s, 2, NH).

reactant | Indole-3-carbinol | 6.79 mmol, 1.0 g | C=1C=CC2=C(C1)C(=CN2)CO | C9H9NO
reactant | carbon dioxide | C(=O)=O | CO2
solvent | NaOH | 100 mL | [OH-].[Na+]
product | 3,3′-Diindolylmethane | 0.65 g, 77% | C=1C=CC2=C(C1)C(=CN2)CC3=CNC4=C3C=CC=C4 | C17H14N2
